US06274536B1
5-(5-Chloro-3-fluoropyridin-2-yl)-3,6-dimethyl-3,6-dihydro-[1,3,4]-thiadiazine-2-thione
19.1 ml of a 4N sodium hydroxide solution and 3.5 g of methyl hydrazine are introduced into 76 ml of ethanol. At an internal temperature of <5° C., 4.5 ml of carbon disulfide are added dropwise with stirring, and the mixture is then stirred for 30 minutes. 17.0 g of 2-chloro-1-(5-chloro-3-fluoropyridin-2-yl)-propan-1-one (Example P36) are subsequently added in the course of 15 minutes at an internal temperature of <5° C. The temperature is then allowed to rise to 22° C. and the mixture is subsequently stirred for 30 minutes. TLC analysis (silica gel 60 F254; eluant: n-hexane/ethyl acetate, UV) of a worked-up sample shows that starting material is no longer present. 2.5 ml of a concentrated hydrochloric acid solution are then added dropwise to form a yellow precipitate. Stirring is carried out for 1 hour and the mixture is then poured into water and extracted with tert-butyl methyl ether. The combined ethereal phases are washed with water, dried over magnesium sulfate, filtered and concentrated to dryness in vacuo. 20.3 g of the desired title compound are obtained in the form of a solid having a melting point of 107-112° C.

reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | methyl hydrazine | 3.5 g | CNN | CH6N2
reactant | 2-chloro-1-(5-chloro-3-fluoropyridin-2-yl)-propan-1-one | 17.0 g | ClC(C(=O)C1=NC=C(C=C1F)Cl)C | C8H6Cl2FNO
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | carbon disulfide | 4.5 ml | C(=S)=S | CS2
solvent | water | O | H2O
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethanol | 76 ml | C(C)O | C2H6O
product | 5-(5-Chloro-3-fluoropyridin-2-yl)-3,6-dimethyl-3,6-dihydro-[1,3,4]-thiadiazine-2-thione | 20.3 g | ClC=1C=C(C(=NC1)C1=NN(C(SC1C)=S)C)F | C10H9ClFN3S2
